US05849920
2-Amino-3-chloro-6-propargyloxy-5-trifluoromethylpyridine
3.9 g (0.153 mol) of sodium hydride were introduced, under nitrogen, into 250 ml of methyl tert-butyl ether, with stirring, and 20 ml of propargyl alcohol were then added dropwise with stirring at 25°-30° C. over 20 minutes. After the mixture had been stirred for 30 minutes at 25° C., 32.9 g (0.153 mol) of 2-amino-3-chloro-6-fluoro-5-trifluoromethylpyridine in 100 ml of methyl tert-butyl ether were added in the course of 10 minutes and the mixture was stirred for 14 hours at 25° C. The reaction mixture was extracted with water, dried and concentrated, giving 37.8 g (99% of theory) of the title compound as a colorless oil of ηD24 =1.5217 (Table I, No. 1.035).

reactant | sodium hydride | 0.153 mol, 3.9 g | [H-].[Na+]
reactant | propargyl alcohol | 20 ml | C(C#C)O | C3H4O
reactant | 2-amino-3-chloro-6-fluoro-5-trifluoromethylpyridine | 0.153 mol, 32.9 g | NC1=NC(=C(C=C1Cl)C(F)(F)F)F | C6H3ClF4N2
solvent | methyl tert-butyl ether | 100 ml | C(C)(C)(C)OC | C5H12O
solvent | methyl tert-butyl ether | 250 ml | C(C)(C)(C)OC | C5H12O
product | 2-Amino-3-chloro-6-propargyloxy-5-trifluoromethylpyridine | NC1=NC(=C(C=C1Cl)C(F)(F)F)OCC#C | C9H6ClF3N2O
